US04968702
3-Amino-6-fluoro-2-[4-(phenylthio)phenyl]-4-quinolinecarboxylic acid
To a suspension of 526 mg of 5-fluoroisatin in 4 ml of water was added 737 mg of sodium hydroxide in 6 ml of water. The resulting solution was heated to 80° C., then a solution of 1.254 g of 2-amino-1-[4-(phenylthio)phenyl]ethanone, hydrochloride in 8 ml of ethanol and 8 ml of water was added dropwise. After heating at reflux for 1 hour, the volatiles were removed in vacuo, 10 ml of water was added and the mixture filtered. A 60 ml portion of water was added to the filtrate which was then acidified to pH 4 with glacial acetic acid. After stirring for 25 minutes the solid was collected, washed with water and crystallized from 50 ml of hot acetonitrile, giving 442 mg of the desired product, mp 219°-221° C. (dec.).

reactant | 5-fluoroisatin | 526 mg | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | sodium hydroxide | 737 mg | [OH-].[Na+]
reactant | 2-amino-1-[4-(phenylthio)phenyl]ethanone, hydrochloride | 1.254 g | Cl.NCC(=O)C1=CC=C(C=C1)SC1=CC=CC=C1
solvent | water | 4 ml | O | H2O
solvent | water | 6 ml | O | H2O
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | water | 8 ml | O | H2O
product | 3-Amino-6-fluoro-2-[4-(phenylthio)phenyl]-4-quinolinecarboxylic acid | 442 mg | NC=1C(=NC2=CC=C(C=C2C1C(=O)O)F)C1=CC=C(C=C1)SC1=CC=CC=C1 | C22H15FN2O2S
